US04061746
2-[(cis-2-Phenylcyclopentyl)imino]azacyclotridecane hydrochloride
To 21.7 g of 2-azacyclotridecanone in 200 ml of dry benzene is added dropwise 15.3 g of phosphorus oxychloride. The mixture is stirred at room temperature for 4 hours after which 19.8 g of cis-2-phenylcyclopentylamine hydrochloride is added. The reaction mixture is stirred at room temperature for 2 hours and refluxed for 24 hours. The resulting homogeneous solution is washed with 2N NaOH, 2N HCl and saturated NaCl solution, dried over sodium sulfate and the solvent evaporated. The resulting oily product crystallized from acetone is recrystallized from methanol-acetone to give the desired product, M.P. 156°-159° C.

reactant | 2-azacyclotridecanone | 21.7 g | C1(NCCCCCCCCCCC1)=O | C12H23NO
reactant | phosphorus oxychloride | 15.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cis-2-phenylcyclopentylamine hydrochloride | 19.8 g | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-[(cis-2-Phenylcyclopentyl)imino]azacyclotridecane hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N=C1NCCCCCCCCCCC1 | InChI=1S/C23H36N2.ClH/c1-2-4-6-11-18-23(24-19-12-7-5-3-1)25-22-17-13-16-21(22)20-14-9-8-10-15-20;/h8-10,14-15,21-22H,1-7,11-13,16-19H2,(H,24,25);1H/t21-,22-;/m1./s1
